US06187905B1
115 mg (0.25 mmol) of the foregoing 3(RS)-amino-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide p-toluenesulphonate (1:1), 183 mg (0.2 mmol) of N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine, 58 mg (0.3 mmol) of 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide, 30 mg (0.22 mmol) of 1-hydroxybenzotriazole and 46 mg (0.4 mmol) of N-ethylmorpholine were dissolved in 10 ml of dichloromethane and the solution was stirred at room temperature for 6 hours. The solution was then washed with 2M hydrochloric acid and saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was chromatographed on silica gel using 3.5% methanol in dichloromethane for the elution. The solid obtained was triturated with diethyl ether and filtered off to give 61 mg of 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide as a white solid, MS: m/e 1188.4 [M+H]+.

reactant | 3(RS)-amino-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide p-toluenesulphonate | 0.25 mmol, 115 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C(C(=O)NC1=C(C=C(C=C1)C)C)=O)CC(F)(F)F
reactant | N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine | 0.2 mmol, 183 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C47H75N5O13
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 0.3 mmol, 58 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.22 mmol, 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 0.4 mmol, 46 mg | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide | 61 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)NC1=C(C=C(C=C1)C)C)=O)CC(F)(F)F | C60H88F3N7O14
